US08008481B2
A suspension of N′-[4-((E)-2-dimethylamino-vinyl)-5-nitro-pyridin-2-yl]-N,N-dimethyl-formamidine (Preparation #10a, 8.36 g, 31.4 mmol) and 10% Pd on carbon (800 mg) in ethanol (120 mL) was shaken in a hydrogenation vessel under an atmosphere of 10-55 psi H2 for about 24 hours. The reaction was filtered through Celite® and concentrated to yield N,N-dimethyl-N′-(1H-pyrrolo[2,3-c]pyridin-5-yl)-formamidine (6.19 g, 105%) as a dark solid. RP HPLC (Table 1, Method e) Rt=0.84, m/z: (MH)+ 189. The crude product was used in the next step without further purification.

reactant | N′-[4-((E)-2-dimethylamino-vinyl)-5-nitro-pyridin-2-yl]-N,N-dimethyl-formamidine | 31.4 mmol, 8.36 g | CN(/C=C/C1=CC(=NC=C1[N+](=O)[O-])N=CN(C)C)C | C12H17N5O2
solvent | ethanol | 120 mL | C(C)O | C2H6O
catalyst | Pd on carbon | 800 mg | [Pd] | Pd
product | N,N-dimethyl-N′-(1H-pyrrolo[2,3-c]pyridin-5-yl)-formamidine | 6.19 g, 105% | CN(C=NC=1C=C2C(=CN1)NC=C2)C | C10H12N4
